US08293909B2
Step 2: Preparation of 2-(benzyloxy)-4-iodo-5-(methoxymethoxy)pyridine.
tBuLi (27 mL, 46.2 mmol) was added drop wise to a stirring solution of 2-(benzyloxy)-5-(methoxymethoxy)pyridine (5.4 g, 22.06 mmol) in THF (110 mL) at −78° C. The light yellow solution was allowed to stir for 30 min then treated with a solution of iodine (8.4 g, 33.1 mmol) in THF (55 mL) dropwise (the purple color per drop dissipated until after 1.05 equiv was added, then it turned progressively purple). It was allowed to stir for 1 hour and then quenched with H2O and diluted with EtOAc washed with sodium thiosulfate sat. soln and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product 2-(benzyloxy)-4-iodo-5-(methoxymethoxy)pyridine (3.90 g, 10.5 mmol, 48% yield) by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.87 (1H, s), 7.28-7.44 (6H, m), 5.28 (2H, s), 5.21 (2H, s), 3.43 (3H, s). LC-MS retention time: 2.36 min; m/z (MH+): 372. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | tBuLi | 46.2 mmol, 27 mL | [Li]C(C)(C)C
reactant | 2-(benzyloxy)-5-(methoxymethoxy)pyridine | 22.06 mmol, 5.4 g | C(C1=CC=CC=C1)OC1=NC=C(C=C1)OCOC | C14H15NO3
reactant | iodine | 33.1 mmol, 8.4 g | II | I2
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | 2-(benzyloxy)-4-iodo-5-(methoxymethoxy)pyridine | 10.5 mmol, 3.90 g, 48% yield | C(C1=CC=CC=C1)OC1=NC=C(C(=C1)I)OCOC | C14H14INO3
